US05489303
In 50 ml of dioxane, 20.00 g of polyethylene glycol monooleyl ether (average molecular weight 4,268) obtained by addition of ethylene oxide to an oleyl alcohol in the presence of an alkali catalyst and 1.90 g of triethyl amine were dissolved. The resultant solution and a solution of 1.85 g of p-toluenesulfonyl chloride in 10 ml of dioxane slowly added dropwise thereto were left reacting at 60° C. for two hours. The reaction product was refined by being dissolved with 200 ml of acetone added thereto, then cooled to 0° C., and left standing to allow sedimentation of the product aimed at. Then, a solution of 6.50 g of the product mentioned above in 30 ml of DMF and 0.55 g of potassium phthalimide added thereto were left reacting at 90° C. for two hours. The reaction product was refined by being dissolved with 60 ml of acetone added thereto, then cooled to 0° C., and left standing to allow sedimentation of the product aimed at. Subsequently, a solution of 6.00 g of the product mentioned above in 30 ml of ethanol and 1.00 g of hydrazinc hydrate added thereto were left reacting as refluxed for two hours. The reaction product was refined by being dissolved with 60 ml of acetone added thereto, then cooled to 0° C., and left standing to allow sedimentation of the product aimed at. Consequently, 5.20 g of an oleyl alcohol macromer possessed of amino groups at the terminals thereof was obtained.

reactant | ethylene oxide | C1CO1 | C2H4O
reactant | oleyl alcohol | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | triethyl amine | 1.90 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | polyethylene glycol monooleyl ether | 20.00 g | CCCCCCCC/C=C\CCCCCCCCOCCO | C20H40O2
